US09422240B2
4-(2-Cyclopropylethoxyl)benzaldehyde
To a mixture of 4-hydroxybenzaldehyde (2.84 g), 2-cyclopropylethanol (2.00 g), triphenylphosphine (6.09 g) and tetrahydrofuran (100 mL), diethyl azodicarboxylate (2.2 mol/L, solution in toluene, 10.5 mL) was added and the mixture was stirred at room temperature for 4 days. After concentrating the reaction mixture under reduced pressure, ethyl acetate (7.50 mL) and n-hexane (143 mL) were added and the mixture was stirred at room temperature for 15 minutes. The precipitate was removed by filtration through Celite (registered trademark). The filtrate was concentrated under reduced pressure and, thereafter, the resulting residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=95:5-50:50) to give the titled compound as a yellow oil (3.34 g).

reactant | 4-hydroxybenzaldehyde | 2.84 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | 2-cyclopropylethanol | 2.00 g | C1(CC1)CCO | C5H10O
reactant | triphenylphosphine | 6.09 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 2.2 mol/L, 10.5 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 4-(2-Cyclopropylethoxyl)benzaldehyde | 3.34 g | C1(CC1)CCOC1=CC=C(C=O)C=C1 | C12H14O2
